data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_208675_1,[C:1](/[C:4](=[C:2](\[C:3]([N:5]([H:11])[H:12])=[O:8])[O:6][H:9])[O:7][H:10])([H:13])([H:14])[H:15]>>[C:1](/[C:4](=[C:2](\[C:3]([N:5]([H:11])[H:12])=[O:8])[O:6][H:10])[O:7][H:9])([H:13])([H:14])[H:15],47.63226999998111
MR_171713_0,[C:1]1([C:3]([O:6][H:7])([H:11])[H:12])([H:9])[C:2]([C:4]([H:13])([H:14])[H:15])([H:10])[N:5]1[H:8]>>[C:1](\[C:2]([C:4]([H:13])([H:14])[H:15])([H:9])[H:10])([C:3]([O:6][H:7])([H:11])[H:12])=[N:5]\[H:8],62.756275000034094
MR_379303_1,[C:1](/[C:5]([C:6]([C:2]([H:15])([H:16])[H:17])[C:7]([C:3]([H:18])([H:19])[H:21])[C:4]([H:20])([H:22])[H:23])=[N:9]\[N:8]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]1=[C:6]([C:2]([H:15])([H:16])[H:17])[C:7]([C:3]([H:18])([H:19])[H:21])([C:4]([H:20])([H:22])[H:23])[N:9]1[N:8]([H:10])[H:11])([H:12])([H:13])[H:14],35.193337499997455
MR_647832_1,[C:1]([N:4]([H:11])[H:12])([O:7]/[C:2](=[C:3](\[N:6]([H:15])[H:16])[O:8][H:10])[N:5]([H:13])[H:14])=[O:9]>>[C:1]([C:3]([C:2]([N:5]([H:13])[H:14])=[O:7])([N:6]([H:15])[H:16])[O:8][H:10])([N:4]([H:11])[H:12])=[O:9],45.84703249999407
MR_270332_0,[C:1]([C:2]([O:6][H:7])([H:11])[H:12])([N:4]([H:9])[H:10])([O:5][C:3]([H:13])([H:14])[H:15])[H:8]>>[C:1]([C:2]([O:5][C:3]([H:13])([H:14])[H:15])([H:11])[H:12])([N:4]([H:9])[H:10])([O:6][H:7])[H:8],68.99864499996809
MR_103826_0,[C:1]([C:3]([C:2]([H:10])([H:11])[H:12])=[O:6])([C:4](=[C:5]([H:13])[H:14])[H:9])([H:7])[H:8]>>[C:1](=[C:4]([C:5]([C:3]([C:2]([H:10])([H:11])[H:12])=[O:6])([H:13])[H:14])[H:9])([H:7])[H:8],64.08531999999582
MR_127564_0,[C:1]1([C:4]([H:16])([H:17])[H:20])([C:5]([H:18])([H:19])[H:21])[C:3]([H:14])([H:15])[C:2]([C:6]([H:22])([H:23])[H:24])([O:9][H:12])[C:7]1([O:8][H:11])[O:10][H:13]>>[C:1]([C:3]([C:2]([C:6]([H:22])([H:23])[H:24])([O:9][H:12])[H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:20])([C:5]([H:18])([H:19])[H:21])[C:7]([O:8][H:11])=[O:10],63.85377249997404
MR_642692_0,[C:1]([C:3](=[C:2]([O:4][H:7])[O:5][H:8])[O:6][H:9])([H:10])([H:11])[H:12]>>[C:1]([C:3]([C:2]([O:4][H:7])([O:5][H:8])[H:9])=[O:6])([H:10])([H:11])[H:12],61.48809749999003
MR_610577_1,[C:1](/[C:3](=[C:4](\[C:2]([H:16])([H:17])[H:18])[N:6]([H:12])[H:13])[N:5]([H:10])[H:11])([O:7][O:8][H:9])([H:14])[H:15]>>[C:1](=[C:3]([C:4]([C:2]([H:16])([H:17])[H:18])([N:6]([H:12])[H:13])[O:7][O:8][H:9])[N:5]([H:10])[H:11])([H:14])[H:15],36.91268750000816
MR_550563_1,[C:1](=[N:7][C:4]1([C:5](=[C:6]([H:14])[H:15])[H:13])[C:2]([H:11])([H:12])[N:3]1[H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[N:3]([H:8])[C:2]([H:11])([H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])=[N:7]1,47.177332500059634
MR_32907_1,[C:1](/[C:4](=[C:6](/[C:3]([H:19])([H:20])[H:21])[C:7]([C:5]([C:2]([H:16])([H:17])[H:18])[O:9][H:11])[H:12])[O:8][H:10])([H:13])([H:14])[H:15]>>[C:1]([C@:4]1([O:8][H:10])[C@:5]([C:2]([H:16])([H:17])[H:18])([O:9][H:11])[C:7]([H:12])=[C:6]1[C:3]([H:19])([H:20])[H:21])([H:13])([H:14])[H:15],35.180160000030725
MR_614061_1,[C:1]1([O:8][H:10])([H:11])[N:2]([O:7][H:9])[O:5][C:3]([H:12])=[C:4]([H:13])[O:6]1>>[C:1]([O:6]/[C:4](=[C:3](\[O:5][N:2]([O:7][H:9])[H:10])[H:12])[H:13])(=[O:8])[H:11],58.01425750002167
MR_120097_0,[C@:1]([C:2]([O:6][H:8])=[O:7])([N:3]([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:9]>>[C:1](\[N:3]([H:10])[H:11])(=[C:4](\[C:5]([C:2]([O:6][H:8])=[O:7])([H:13])[H:14])[H:12])[H:9],63.78537500000405
MR_557741_1,[C:1](/[C:4](=[N:8]/[H:10])[H:13])(=[C:5]([H:14])[H:15])[O:6]/[C:2](=[C:3](\[O:7][H:9])[H:12])[H:11]>>[C:1]1(=[C:5]([H:14])[H:15])[C:2]([C@@:3](/[C:4](=[N:8]/[H:10])[H:13])([O:7][H:9])[H:12])([H:11])[O:6]1,70.35090750001388
MR_508367_2,[C:1]([C:2]([C:5]([C:4]([N:8]([H:15])[H:16])=[O:10])=[C:9]([H:22])[H:23])([H:17])[H:18])([C:3]([H:19])([H:20])[H:21])([N:6]([H:11])[H:12])[N:7]([H:13])[H:14]>>[C:1](\[C:2]([C:5]([C:4]([C:3]([H:19])([H:20])[H:21])([N:8]([H:15])[H:16])[O:10][H:14])=[C:9]([H:22])[H:23])([H:17])[H:18])([N:6]([H:11])[H:12])=[N:7]/[H:13],64.7046624999659
MR_176715_0,[C:1]([C:2]([C:4]([N:6]=[O:7])=[O:8])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([O:5][H:9])[H:10]>>[C:1]([C:2]([C:4]([N:6]([C:3]([H:13])([H:14])[H:15])[O:7][H:9])=[O:8])([H:11])[H:12])(=[O:5])[H:10],63.70819250002057
MR_350049_0,[C:1]([N:2]([C:3]([N:5]([H:10])[H:11])=[O:9])/[C:4]([N:6]([H:12])[H:13])=[C:8](\[N:7]([H:14])[H:15])[H:16])([H:17])([H:18])[H:19]>>[C:1](/[N:2]=[C:4](\[N:6]([H:12])[H:13])[C:8]([C:3]([N:5]([H:10])[H:11])=[O:9])([N:7]([H:14])[H:15])[H:16])([H:17])([H:18])[H:19],51.040850000007225
MR_578161_1,[C:1]([N:9]([C:4](/[N:3]=[N:6]/[H:12])([C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[O:8][H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1](/[N:9]=[C:4](/[N:3]([C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[N:6]([H:11])[H:12])[O:8][H:10])([H:13])([H:14])[H:15],54.14634750001383
MR_526710_0,[C:1](=[C:2](\[O:7][H:10])[H:11])(\[C:3]([C:4]([O:6][H:9])=[O:8])([H:14])[H:15])[N:5]([H:12])[H:13]>>[C:1]1([C:4]([O:6][H:9])=[O:8])([N:5]([H:12])[H:13])[C:2]([O:7][H:10])([H:11])[C:3]1([H:14])[H:15],72.31937499996633
